US08957070B2
3-({Methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylic acid
To a solution of methyl 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylate (300 mg) in methanol (2 mL) and tetrahydrofuran (2 mL) was added 1N aqueous sodium hydroxide solution (2 mL) at room temperature, and the mixture was stirred for 3 hr. The reaction mixture was concentrated, and 1N hydrochloric acid (5 mL) was added to the residue. The precipitated crystals were collected by filtration, washed with water, and dried to give the title compound (236 mg, yield 80%) as yellow crystals. melting point 225° C.

reactant | methyl 3-({methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylate | 300 mg | CN(S(=O)(=O)C1=C(SC=C1)C(=O)OC)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C18H15N3O4S3
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-({Methyl[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]amino}sulfonyl)thiophene-2-carboxylic acid | 236 mg, yield 80% | CN(S(=O)(=O)C1=C(SC=C1)C(=O)O)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C17H13N3O4S3
